US08440652B2
A solution of 4-(4-chlorophenyl)tetrahydro-2H-pyran-4-carbonitrile (889 mg, 4.0 mmol), Pd(dba)2 (138 mg, 0.24 mmol), PCy3 (268 mg, 0.96 mmol), diboron pinacol ester (1.21 g, 4.8 mmol) and KOAc (1.18 g, 12.0 mmol) in 16 mL dioxane was microwave heated to 150° C. for 15 min. The resulting mixture was filtered, then concentrated and purified by flash chromatography on silica (2-5% MeOH/DCM eluent) to provide 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile as a yellow crystalline solid (1.01 g, 81% yield).

reactant | 4-(4-chlorophenyl)tetrahydro-2H-pyran-4-carbonitrile | 4.0 mmol, 889 mg | ClC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H12ClNO
reactant | PCy3 | 0.96 mmol, 268 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | diboron pinacol ester | 4.8 mmol, 1.21 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 12.0 mmol, 1.18 g | CC(=O)[O-].[K+]
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dba)2 | 0.24 mmol, 138 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 1.01 g, 81% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CCOCC1)C#N)C | C18H24BNO3
